US06329392B1
1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(4-hydroxy-phenyl)-pyrrolidine
Combine 1-(3,4,5-trimethoxy-benzoyl)-3-[2-[4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(4-(t-butyldimethylsilyloxy)-phenyl)-pyrrolidine (6 mmol) and THF (20 mL). Cool using an ice bath. Add dropwise, a 1 M THF solution of tetrabutylammonium fluoride (7 mL). After 30 minutes, concentrate in vacuo to obtain a residue. Combine dichloromethane (50 mL) and the residue. Extract with water (3×15 mL), dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph on silica gel to obtain the title compound.

reactant | 1-(3,4,5-trimethoxy-benzoyl)-3-[2-[4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(4-(t-butyldimethylsilyloxy)-phenyl)-pyrrolidine | 6 mmol | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=C(C=C2)O[Si](C)(C)C(C)(C)C)CCN2CCC(CC2)C(=O)C2=NC3=C(N2CC2=CC=C(C=C2)F)C=CC=C3)C=C(C1OC)OC | C48H59FN4O6Si
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 1 M | C1CCOC1 | C4H8O
reactant | tetrabutylammonium fluoride | 7 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(4-hydroxy-phenyl)-pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=C(C=C2)O)CCN2CCC(CC2)C(=O)C2=NC3=C(N2CC2=CC=C(C=C2)F)C=CC=C3)C=C(C1OC)OC | C42H45FN4O6
